US05114939
8-Fluoro-N-[2-(2-naphthyl)ethyl]-4-quinolinamine
A mixture of 2.0 g of 4-chloro-8-fluoroquinoline and 3.8 g of 2-(2-naphthyl)ethyl amine was heated under nitrogen to 160°-165° C. for one hour. Then 200 mL of a 50:50 mixture of ammonium hydroxide in water was added. The product was extracted from the mixture into CH2Cl2, which was then concentrated to dryness. The residue was recrystallized from pentane/ethyl acetate to give 1.4 g of the title product. Yield 41.2%. M.P. 173°-174° C.

reactant | 4-chloro-8-fluoroquinoline | 2.0 g | ClC1=CC=NC2=C(C=CC=C12)F | C9H5ClFN
reactant | 2-(2-naphthyl)ethyl amine | 3.8 g | C1=C(C=CC2=CC=CC=C12)CCN | C12H13N
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 8-Fluoro-N-[2-(2-naphthyl)ethyl]-4-quinolinamine | 1.4 g, Yield 41.2% | FC=1C=CC=C2C(=CC=NC12)NCCC1=CC2=CC=CC=C2C=C1 | C21H17FN2
